US04840971
(i) Synthesis of 4-chloro-α,α,α-trifluoroacetophenone
Under a nitrogen atmosphere, 110 ml of n-butyllithium/hexane solution (0.95M solution) was added to a solution of 20 g of p-bromochlorobenzene in 200 ml of dry THF at -60° C. The reaction solution was stirred at -60° C. for 1 hour and at -20° C. for 30 minutes. A solution of 17.8 g of ethyl trifluoroacetate in 20 ml of dry THF was added to the reaction solution at -60° C., followed by stirring at that temperature for 1 hour. The reaction solution was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined and washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure and the residue was subjected to distillation under a reduced pressure to obtain 13.1 g of the desired compound.

reactant | n-butyllithium hexane | 0.95M, 110 ml | C(CCC)[Li].CCCCCC
reactant | p-bromochlorobenzene | 20 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | ethyl trifluoroacetate | 17.8 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-chloro-α,α,α-trifluoroacetophenone | 13.1 g | C1=CC(=CC=C1C(=O)C(F)(F)F)Cl | C8H4ClF3O
